US04861785
A mixture of 1.65 parts of 1-(4-fluorobenzoyl)aziridine (solution in benzene 1.2M), 2.1 parts of N-(4-piperidinyl)-2-benzoxazolamine and 90 parts of methylbenzene was stirred and refluxed overnight. The reaction mixture was evaporated and the residue was crystallized from 2-propanol. The product was filtered off and recrystallized from 2-propanone, yielding 1.3 parts (34%) of N-[2-[4-[(2-benzoxazolyl)amino]-1-piperidinyl]ethyl]-4-fluorobenzamide; mp. 173.3° C. (448).

reactant | 1-(4-fluorobenzoyl)aziridine | 1.2M | FC1=CC=C(C(=O)N2CC2)C=C1 | C9H8FNO
reactant | N-(4-piperidinyl)-2-benzoxazolamine | N1CCC(CC1)NC=1OC2=C(N1)C=CC=C2 | C12H15N3O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | N-[2-[4-[(2-benzoxazolyl)amino]-1-piperidinyl]ethyl]-4-fluorobenzamide | 34% | O1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(C2=CC=C(C=C2)F)=O | C21H23FN4O2
